US07498339B2
1′-[N-(Diphenylmethyl)glycyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
1′-(Chloroacetyl)-3H-spiro[2-benzofuran-1,4′-piperidine]-3-one (50 mg, 0.179 mmol)) and diphenylmethylamine (33 mg, 0.179 mmol) were dissolved in dry DMF (0.8 mL). Then triethylamine (0.074 mL, 0.536 mmol) was added and the reaction mixture was shaken at 25° C. for 2.5 days. Water (0.1 mL) was added and the whole mixture was directly purified by preparative HPLC on YMC-AQ column with a gradient of MeCN in water from 0-90% in 15 min. MS: m/z=427 [M+H]+.

reactant | 1′-(Chloroacetyl)-3H-spiro[2-benzofuran-1,4′-piperidine]-3-one | 0.179 mmol, 50 mg | ClCC(=O)N1CCC2(CC1)OC(C1=C2C=CC=C1)=O | C14H14ClNO3
reactant | diphenylmethylamine | 0.179 mmol, 33 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | triethylamine | 0.536 mmol, 0.074 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 0.1 mL | O | H2O
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 1′-[N-(Diphenylmethyl)glycyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | C1(=CC=CC=C1)C(NCC(=O)N1CCC2(CC1)OC(C1=C2C=CC=C1)=O)C1=CC=CC=C1 | C27H26N2O3
